US05801195
Methyl N-(3-nitrobenzoyl)-3-amino-3-(3,4-dimethoxyphenyl)propionate.
To an ice bath cooled stirred suspension of methyl 3-amino-3-(3,4-dimethoxyphenyl)propionate hydrochloride (1.38 grams, 5.00 mmol) and triethylamine (1.5 milliliters, 10.8 mmol) in 10 milliliters of tetrahydrofuran was added 3-nitrobenzoyl chloride (0.928 grams, 5.00 mmol) in a single portion. A thick slurry resulted. The cooling bath was removed after 15 minutes, the mixture diluted with 10 milliliters of tetrahydrofuran and the mixture stirred for an additional hour. The reaction mixture was diluted with 50 milliliters of water and then partially concentrated in vacuo to remove the tetrahydrofuran. The reaction slurry was filtered, the solid washed with copious amounts of water, air-dried, and dried in vacuo (60° C., <1 mm) to afford 1.85 grams (95%) of the product as an off white powder: 1H NMR (CDCl3, 250 MHz) δ 8.63 (t, J=1.9 Hz, 1 H), 8.35 (m, 1 H, Ar), 8.20 (m, 1 H, Ar), 7.77 (d, J=8 Hz, 1 H, NH), 7.63 (t, J=8.0 Hz, 1 H), 6.95-6.75 (m, 3 H, Ar), 5.86 (m, 1 H, CHCO), 3.85 (s, 3 H, OCH3), 3.84 (s, 3 H, OCH3), 3.68, (s, 3 H, CO2CH3), 3.01 (m, 2 H, CH2); 13C NMR (CDCl3) δ 172.0, 164.1, 149.1, 148.6, 148.2, 135.8, 133.1, 132.7, 129.8, 126.1, 122.0, 118.2, 111.2, 109.9, 55.9, 55.8, 52.0, 50.2, 39.5.

reactant | methyl 3-amino-3-(3,4-dimethoxyphenyl)propionate hydrochloride | 5.00 mmol, 1.38 grams | Cl.NC(CC(=O)OC)C1=CC(=C(C=C1)OC)OC
reactant | triethylamine | 10.8 mmol, 1.5 milliliters | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 5.00 mmol, 0.928 grams | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | tetrahydrofuran | 10 milliliters | O1CCCC1 | C4H8O
product | Methyl N-(3-nitrobenzoyl)-3-amino-3-(3,4-dimethoxyphenyl)propionate | 1.85 grams, 95% | [N+](=O)([O-])C=1C=C(C(=O)NC(CC(=O)OC)C2=CC(=C(C=C2)OC)OC)C=CC1 | C19H20N2O7
